US04638000
In 300 ml of ethanol is dissolved 5.8 g of sodium, and 40 g of diethyl malonate is added to the solution, followed by stirring. 3-(1-Benzyloxycarbonyl-4-piperidyl)propyl p-toluenesulfonate (90.5 g) is added to this mixture followed by refluxing with stirring for 2 hours. After cooling, 1 l of water is added to the reaction solution, which is then extracted with 500 ml of ethyl acetate. The extract is dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give ethyl 5-(1-benzyloxycarbonyl-4-piperidy)-2-ethoxycarbonylvalearate as an oily material. This product is dissolved in 200 ml of ethanol, and a solution of 34 g of sodium hydroxide in 200 ml of water is added dropwise to the solution with stirring. After the addition is completed, 300 ml of water is added to the reaction solution, which is then extracted with a mixture of ether and petroleum ether (1:1, 300 ml). The aqeuous layer is made acidic with conc. hydrochloric acid, followed by extraction with 500 ml of ethyl acetate. The extract is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 5-(1-benzyloxycarbonyl-4-piperidyl)-2-carboxyvaleric acid as an oily material. This product is heated at 160° to 170° C. with stirring for 45 minutes to give 50 g of 5-(1-benzyloxycarbonyl-4-piperidyl)valeric acid as an oily material.

reactant | sodium | 5.8 g | [Na] | Na
reactant | diethyl malonate | 40 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-(1-Benzyloxycarbonyl-4-piperidyl)propyl p-toluenesulfonate | 90.5 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C23H29NO5S
reactant | sodium hydroxide | 34 g | [OH-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
solvent | water | 300 ml | O | H2O
solvent | water | 1 l | O | H2O
product | 5-(1-benzyloxycarbonyl-4-piperidyl)-2-carboxyvaleric acid | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCC(C(=O)O)C(=O)O | C19H25NO6
